US09227919B2
Step-2: (R)-Methyl 3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carboxylate
To a stirred solution of (R)-methyl 4-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylate (4.5 g, 22.03 mmol) in benzene (40 mL), ethane-1,2-diol (3.69 mL, 66.1 mmol) and a catalytic amount of p-toluenesulfonic acid was added. The reaction mixture was heated to reflux temperature and further maintained for 20 hours. Then, reaction mixture was allowed to RT, concentrated under vacuum to yield 12 g of crude compound. This crude material was purified by flash chromatography (Biotage) using 7% ethyl acetate in hexane to give title compound (4.7 g) m/z 248.6.

reactant | (R)-methyl 4-oxo-1,2,3,4-tetrahydronaphthalene-2-carboxylate | 22.03 mmol, 4.5 g | O=C1C[C@@H](CC2=CC=CC=C12)C(=O)OC | C12H12O3
reactant | ethane-1,2-diol | 66.1 mmol, 3.69 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | (R)-Methyl 3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carboxylate | 4.7 g | C12(C[C@@H](CC3=CC=CC=C13)C(=O)OC)OCCO2 | C14H16O4
